* C:\git-checkouts\radar-speed-sign\ltspice\lm358_amplifier_bode.asc
XU1 N004 N002 3v3 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C1 N004 in 4.7µ
R1 N003 N002 10k
V1 in 0 AC 1
C3 out N003 4.7µ
R2 N002 N001 10k
C4 N001 0 4.7µ
.ac dec 1000 1 100k
.lib UniversalOpAmp2.lib
.backanno
.end
